US04610818
4 ml of isobutyl chloroformate were added dropwise to 7.9 g of 1-benzyloxycarbonylaminocyclohexane-1-carboxylic acid and 4 ml of triethylamine in 75 ml of tetrahydrofuran at -10° C., while stirring, 5.6 g of L-leucyl-glycinamide in 50 ml of dimethylformamide were added to the resulting solution of the asymmetric acid anhydride after 15 minutes, and the mixture was stirred for 1 hour at -10° C. and then for 16 hours at room temperature, after which it was evaporated down under reduced pressure. The residue was taken up in ethyl acetate and the solution was washed successively with 10% strength aqueous citric acid solution, sodium carbonate solution and water, dried over sodium sulfate and evaporated down under reduced pressure. 7.5 g of 1-benzyloxycarbonylaminocyclohex-1-yl-carbonyl-L-leucyl-glycinamide were obtained.

reactant | isobutyl chloroformate | 4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-benzyloxycarbonylaminocyclohexane-1-carboxylic acid | 7.9 g | C(C1=CC=CC=C1)OC(=O)NC1(CCCCC1)C(=O)O | C15H19NO4
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | L-leucyl-glycinamide | 5.6 g | N[C@@H](CC(C)C)C(=O)NCC(=O)N | C8H17N3O2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-benzyloxycarbonylaminocyclohex-1-yl-carbonyl-L-leucyl-glycinamide | 7.5 g | C(C1=CC=CC=C1)OC(=O)NC1(CCCCC1)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N | C23H34N4O5
